US08217047B2
(B) Synthesis of biphenyl-4-yl-bromo-acetic acid methyl ester (Cpd. 2)
To a stirred solution of biphenyl-4-yl-acetic acid methyl ester (5 g., 22.1 mmol) in carbon tetrachloride (from Acros, 16772) (25 mL) was added N-bromosuccinimide (from Aldrich, 18350) (3.9 g., 22.1 mmol) and benzoyl peroxide (from Acros, 21178) (0.54 g, 2.2 mmol) and the reaction was heated to reflux for 48 hours. The reaction mixture was cooled to room temperature, filtered and the filtrate concentrated in vacuo to afford Cpd. 2 as a crude yellow oil (6.24 g., 93% yield). 1HNMR (CDCl3) δH, 3.81, 3H (s, CH3), 5.41, 1H (s, Br—CH), 7.33-7.39, 2H (m, Ar—H), 7.41-7.46, 3H (m, Ar—H), 7.54-7.63, 4H (m, Ar—H); LCMS analysis (solvent MeCN/H2O/0.1% HCO2H, 5-95% gradient/H2O 2.5 min, 95% 4 min., Phenomenex C18 reverse phase, flow rate 1 mL/min.) HPLC retention time 4.39 min.

reactant | biphenyl-4-yl-acetic acid methyl ester | 22.1 mmol, 5 g | COC(CC1=CC=C(C=C1)C1=CC=CC=C1)=O | C15H14O2
reactant | N-bromosuccinimide | 22.1 mmol, 3.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 2.2 mmol, 0.54 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | MeCN H2O | CC#N.O
solvent | carbon tetrachloride | 25 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | H2O | O | H2O
product | biphenyl-4-yl-bromo-acetic acid methyl ester | 93% yield | COC(C(Br)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C15H13BrO2
